US04743704
Preparation of guaiacol salsalate
244 g of guaiacol salicylate (1.0 mole) and 138 g of salicylic acid (1.0 mole) are suspended in 1 liter of dimethylformamide. 80 g of phosphorus oxychloride are added over a period of about one hour to the solution, which is kept heated under agitation to 60°-70° C., and the mixture is maintained at this temperature until hydrochloric acid ceases to be evolved. The homogeneous dense mass, of straw colour, is poured under energetic agitation into 5 liters of a water-ice mixture and the suspension is neutralised slowly with dilute sodium hydroxide. The crystalline white solid which precipitates is filtered off, washed abundantly with water and then crystallised from isopropanol to obtain an overall yield of 60%. The product has a melting point of 85°-86° C.

reactant | guaiacol salicylate | 1.0 mole, 244 g | C(C=1C(O)=CC=CC1)(=O)OC=1C(=CC=CC1)OC | C14H12O4
reactant | salicylic acid | 1.0 mole, 138 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | phosphorus oxychloride | 80 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
product | guaiacol salsalate | yield of 60% | COC1=CC=CC=C1OC(=O)C2=CC=CC=C2OC(=O)C3=CC=CC=C3O | C21H16O6
